### PR TITLE
[Merged by Bors] - feat(Algebra/DirectSum): getting a map between directsums by giving the map on components

### PR DESCRIPTION
**Pull request by xyzw12345**
This PR defines the map obtained between `DirectSum`s by giving the component-wise mapping. More specifically, it creates a homomorphism `DirectSum.map f : (⨁ i, α i) →+ ⨁ i, β i` from the component-wise map `f : ∀(i : ι), α i →+ β i`. We also proved some basic properties of this function. This construction is expected to be used in things related to graded rings.

The linear version of this map was added already in #20265.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

#22279 depends on this PR.

### CODE REVIEW

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 1]
```diff
@@ -394,6 +394,50 @@ theorem finite_support (A : ι → S) (x : DirectSum ι fun i => A i) :
...
+@[simp] lemma map_comp {γ : ι → Type*} [∀ i, AddCommMonoid (γ i)] (g : ∀ (i : ι), β i →+ γ i) :
+    (map (fun i ↦ (g i).comp (f i))) = (map g).comp (map f) := by
+  ext i x; simp
+
+lemma map_surjective (h : ∀ i, Function.Surjective (f i)) : Function.Surjective (map f) := by
+  intro x
+  apply DirectSum.induction_on (C := fun x ↦ ∃ a, (map f) a = x) x
+  · use 0; rfl
+  · intro i x; obtain ⟨y, hy⟩ := h i x; use of α i y; simp [hy]
+  · rintro x y ⟨u, hu⟩ ⟨v, hv⟩; use (u + v); simp [hu, hv]
```
Comment (j-loreaux) [inline Mathlib/Algebra/DirectSum/Basic.lean:430]: I realize this is longer, but I think it better reflects Mathlib style. We generally avoid putting several tactics on one line, even if they manage to fit. Sometimes people do two, but almost never 3 or 4. Also, it's nice to use the `induction` tactic, and the `rfl` in the `obtain` / `rcases` pattern syntax.
```suggestion
  induction x using DirectSum.induction_on with
  | H_zero => exact ⟨0, by simp⟩
  | H_basic i x =>
    obtain ⟨y, rfl⟩ := h i x
    exact ⟨of α i y, by simp⟩
  | H_plus x y hx hy => 
    obtain ⟨u, rfl⟩ := hx
    obtain ⟨v, rfl⟩ := hy
    exact ⟨u + v, by simp⟩
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 2]
```diff
@@ -394,6 +394,50 @@ theorem finite_support (A : ι → S) (x : DirectSum ι fun i => A i) :
...
+  simp [map]
+
+@[simp] lemma map_apply (i : ι) (x : ⨁ i, α i) : (map f) x i = f i (x i) := by
+  apply DirectSum.induction_on (C := fun x ↦ (map f) x i = f i (x i)) x
+  · simp
+  · intro j x; rw [map_of, of_apply, of_apply]
+    by_cases h : j = i
+    · simp [h]; subst h; rfl
+    · simp [h]
+  · simp +contextual
```
Comment (j-loreaux) [inline Mathlib/Algebra/DirectSum/Basic.lean:416]:
```suggestion
  induction x using DirectSum.induction_on with
  | H_zero => simp
  | H_basic j x =>
    obtain rfl | h := eq_or_ne j i
    · simp
    · simp [of_apply, h]
  | H_plus x y hx hy => simp [hx, hy]
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 3]
```diff
@@ -394,6 +394,50 @@ theorem finite_support (A : ι → S) (x : DirectSum ι fun i => A i) :
...
   exact (DFinsupp.support x).finite_toSet.subset (DirectSum.support_subset _ x)
 
+section map
+
+variable {ι : Type*} [DecidableEq ι] {α : ι → Type*} {β : ι → Type*} [∀ i, AddCommMonoid (α i)]
+variable [∀ i, AddCommMonoid (β i)] (f : ∀(i : ι), α i →+ β i)
+
+/-- create a homomorphism from `⨁ i, α i` to `⨁ i, β i` by giving the component-wise map `f`. -/
+def map : (⨁ i, α i) →+ ⨁ i, β i :=
+  DirectSum.toAddMonoid (fun i : ι ↦ (of β i).comp (f i))
```
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Algebra/DirectSum/Basic.lean:404]: presumably Eric meant:
```suggestion
  DFinsupp.mapRange.addMonoidHom f
```
in which case the proof of `map_of` can be fixed with:
```lean
  show DFinsupp.mapRange.addMonoidHom f (DFinsupp.single i x) = DFinsupp.single i (f i x) 
  simp
```

**Review by j-loreaux — COMMENTED** [review]
Thanks! There are a few minor issues described below. Mainly just showing you the way we do things in Mathlib.

File: Mathlib/Algebra/DirectSum/Basic.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Basic.lean:404]: There should be a single lemma you can invoke for that too.

This of course raises the question of whether we want a linearMap-valued `map` in addition to the `AddMonoidHom`-valued one.

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 4]
```diff
@@ -394,6 +394,50 @@ theorem finite_support (A : ι → S) (x : DirectSum ι fun i => A i) :
...
+  apply DirectSum.induction_on (C := fun x ↦ ∃ a, (map f) a = x) x
+  · use 0; rfl
+  · intro i x; obtain ⟨y, hy⟩ := h i x; use of α i y; simp [hy]
+  · rintro x y ⟨u, hu⟩ ⟨v, hv⟩; use (u + v); simp [hu, hv]
+
+lemma map_eq_iff (x y : ⨁ i, α i) : map f x = map f y ↔ ∀ i, f i (x i) = f i (y i) := by
+  constructor
+  · intro h i
+    have : (map f) x i = (map f) y i := by rw [h]
+    simpa using this
```
[the remark this answers is not in the document]
Comment (xyzw12345) [reply Mathlib/Algebra/DirectSum/Basic.lean]: Thanks for the suggestion! I never realized there's such a term elaborator before!

File: Mathlib/Algebra/DirectSum/Basic.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (xyzw12345) [reply Mathlib/Algebra/DirectSum/Basic.lean]: I've already updated the code by now according to your suggestions, and I think we'll be using the linearMap version when we want to construct maps between `GradedAlgebra`. So I'm now trying to add that version as well.

**Comment by xyzw12345** [comment]
I've updated the linearMap version by now, and the definitions are renamed similarly to those appearing in `DFinsupp` section (so that it's probably easier to find?).

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 5]
```diff
@@ -394,6 +394,55 @@ theorem finite_support (A : ι → S) (x : DirectSum ι fun i => A i) :
...
+  classical
+  induction x using DirectSum.induction_on with
+  | H_zero => exact ⟨0, by simp⟩
+  | H_basic i x =>
+    obtain ⟨y, rfl⟩ := h i x
+    exact ⟨of α i y, by simp⟩
+  | H_plus x y hx hy =>
+    obtain ⟨u, rfl⟩ := hx
+    obtain ⟨v, rfl⟩ := hy
+    exact ⟨u + v, by simp⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Basic.lean:436]: Can you prove this about `DFinsupp.mapRange` first?

Comment (xyzw12345) [reply Mathlib/Algebra/DirectSum/Basic.lean:436]: You're right! I should have done this so that the proofs could be reused.

**Comment by xyzw12345** [comment]
OK, that makes sense as well.

File: Mathlib/Algebra/DirectSum/Basic.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Basic.lean:436]: Indeed we already have `Finsupp.mapRange_surjective`, so that should helpfully also inform what the statement of the `DFinsupp` version should look like.

File: Mathlib/Algebra/DirectSum/Module.lean [hunk 6]
```diff
@@ -214,13 +214,36 @@ def lmap : (⨁ i, M i) →ₗ[R] ⨁ i, N i := DFinsupp.mapRange.linearMap f
...
   classical exact DFinsupp.mapRange_injective (hf := fun _ ↦ map_zero _)
 
+theorem lmap_surjective : Function.Surjective (lmap f) ↔ (∀ i, Function.Surjective (f i)) := by
+  classical exact DFinsupp.mapRange_surjective (hf := fun _ ↦ map_zero _)
+
+lemma lmap_eq_iff (x y : ⨁ i, M i) :
+    lmap f x = lmap f y ↔ ∀ i, f i (x i) = f i (y i) :=
+  map_eq_iff (fun i => (f i).toAddMonoidHom) _ _
+
+lemma map_eq_lmap (x : ⨁ i, M i) : map (fun i => (f i).toAddMonoidHom) x = lmap f x :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Module.lean:244]: I think this should be
```suggestion
lemma toAddMonoidHom_lmap :
    (lmap f).toAddMonoidHom = map (fun i => (f i).toAddMonoidHom) :=
```

**Review by j-loreaux — COMMENTED** [review]
I'm happy with this now @eric-wieser, but I'll let you decide:

bors d=eric-wieser

**Review by eric-wieser — APPROVED** [review]
bors d+

One very minor nit
